US07632932B2
Step A: 1-Bromo-2,4-difluorotoluene
The title compound was prepared by a modification of a published procedure. 2,4-Difluorotoluene was treated with iron chip and bromine at 60° C. overnight under an argon atmosphere in quantitative yield.

reactant | 2,4-Difluorotoluene | FC1=C(C=CC(=C1)F)C | C7H6F2
reactant | bromine | BrBr | Br2
catalyst | iron | [Fe] | Fe
product | 1-Bromo-2,4-difluorotoluene | quantitative yield | BrC1(C(C=C(C=C1)F)F)C | C7H7BrF2
